US07507753B2
2-bromobenzyl-carbamic acid tert-butyl ester
To a solution of 2-bromobenzylamine hydrochloride (5.00 g) and di-tert-butoxycarbonyl (5.39 g) in ethyl acetate (30 ml) was added saturated sodium bicarbonate solution (30 ml), and stirred at room temperature for 16 hours. The obtained reaction mixture was diluted with water, and extracted with ethyl acetate. The organic layer was washed with saturated brine, dried with magnesium sulfate, and the solvent was distilled off under reduced pressure. The residue was purified by silica gel chromatography to give the title compound as a colorless liquid (6.48 g, 95%).

reactant | 2-bromobenzylamine hydrochloride | 5.00 g | Cl.BrC1=C(CN)C=CC=C1
reactant | sodium bicarbonate | 30 ml | C([O-])(O)=O.[Na+]
solvent | ethyl acetate | 30 ml | C(C)(=O)OCC | C4H8O2
solvent | water | O | H2O
product | 2-bromobenzyl-carbamic acid tert-butyl ester | 6.48 g, 95% | C(C)(C)(C)OC(NCC1=C(C=CC=C1)Br)=O | C12H16BrNO2
